### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/PiTensorProduct): arbitrary tensor product of algebras

### PR DESCRIPTION
**Pull request by jjaassoonn**
Let $R$ be a commutative ring and $(A_i)$ a bunch of $R$-algebras, then $\bigotimes_{R} A$ is an $R$-algebra as well. In particular, taking $R$ to be $\mathbb{Z}$, we get tensor product of rings

---

- [ ] depends on:#10986 (so that the doc string can refer to binary tensor product)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 1]
```diff
@@ -678,6 +680,230 @@ this is false in the case where `ι` is empty. -/
 instance : AddCommGroup (⨂[R] i, s i) :=
   Module.addCommMonoidToAddCommGroup R
 
+/-!
+#### Tensor product of `R`-algebras
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:684]: I think this should go in `RingTheory.PiTensorProduct` to match `RingTheory.TensorProduct`.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 2]
```diff
@@ -444,61 +444,58 @@ section
...
-        LinearMap.compMultilinearMap_apply, lift.tprod, domDomCongr_apply]
-      congr
-      ext
-      rw [e.symm_apply_apply])
+variable (s) in
+/-- Re-index the components of the tensor power by `e`.-/
+def reindex (e : ι ≃ ι₂) : (⨂[R] i : ι, s i) ≃ₗ[R] ⨂[R] i : ι₂, s (e.symm i) :=
+  let f := domDomCongrLinearEquiv' R R s (⨂[R] (i : ι₂), s (e.symm i)) e
+  let g := domDomCongrLinearEquiv' R R s (⨂[R] (i : ι), s i) e
+  LinearEquiv.ofLinear (lift <| f.symm <| tprod R) (lift <| g <| tprod R) (by aesop) (by aesop)
```
Comment (jjaassoonn) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:452]: If necessary, I will move this to another PR

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 3]
```diff
@@ -0,0 +1,238 @@
...
+In particular if we take `R` to be `ℤ`, then this collapse into tensor product of rings.
+-/
+
+open TensorProduct Function
+
+noncomputable section
+
+namespace PiTensorProduct
+
+variable {ι R : Type*} {A : ι → Type*}  [CommRing R] [∀ i, CommRing (A i)] [∀ i, Algebra R (A i)]
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean]: I have restructured this file, can you check if this is what you meant?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:452]: maybe instead of editing, I should introduce a new function `reindex'` for a dependent version

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:452]: I think you should split this to another PR, it looks orthogonal to the other results.

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 4]
```diff
@@ -0,0 +1,262 @@
...
+
+variable [CommRing R] [∀ i, Ring (A i)] [∀ i, Algebra R (A i)]
+
+instance ring : Ring (⨂[R] i, A i) where
+  __ := semiring
+  __ := inferInstanceAs <| AddCommGroup (⨂[R] i, A i)
+
+end Ring
+
+noncomputable section CommRing
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:240]: Can you add `CommSemiring` too?

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 5]
```diff
@@ -0,0 +1,262 @@
...
+instance monoid : Monoid (⨂[R] i, A i) where
+  __ := mul
+  __ := one
+  mul_assoc := lmul_assoc
+  one_mul := one_lmul
+  mul_one := lmul_one
+
+instance semiring : Semiring (⨂[R] i, A i) where
+  __ := monoid
+  __ := inferInstanceAs <| AddCommMonoid (⨂[R] i, A i)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:155]:
```suggestion
  __ := inferInstanceAs <| AddCommMonoidWithOne (⨂[R] i, A i)
```

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 6]
```diff
@@ -0,0 +1,262 @@
...
+    rw [map_smul, LinearMap.smul_apply]
+    change _ = r • (1 * x)
+    rw [one_mul]
+
+/--
+the map `Aᵢ ⟶ ⨂ᵢ Aᵢ` given by `a ↦ 1 ⊗ ... ⊗ a ⊗ 1 ⊗ ...`
+-/
+@[simps]
+def fromComponentAlgHom [DecidableEq ι] (i : ι) : A i →ₐ[R] ⨂[R] i, A i where
+  toFun a := tprod R (Function.update 1 i a)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:190]: I think this is `Pi.mulSingle`

File: Mathlib/RingTheory/PiTensorProduct.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/PiTensorProduct.lean:240]: (and perhaps even the non-associative/non-unital versions; they shouldn't be much more work, since they just package the same proofs in smaller pieces)

Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean:240]: I don't think `lmul` works for non-associate/non-unital version because `lmul` really need `Algebra R (A i)` instances so that `x * update z i (r • a) = update (x * z) i (r•(x i * a)))` is true

File: Mathlib/RingTheory/PiTensorProduct.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean]: thanks

File: Mathlib/RingTheory/PiTensorProduct.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean]: done

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: [#9445](https://github.com/leanprover-community/mathlib4/pull/9445)

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 7]
```diff
@@ -0,0 +1,295 @@
...
+
+variable [CommSemiring R] [∀ i, Semiring (A i)] [∀ i, Algebra R (A i)]
+
+instance semiring : Semiring (⨂[R] i, A i) where
+  __ := nonUnitalSemiring
+  __ := nonAssocSemiring
+
+instance algebra : Algebra R (⨂[R] i, A i) where
+  __ := hasSMul'
+  toFun := (· • 1)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:192]: I think this would be a better defeq as
```suggestion
  toFun r := tprod _ (algebraMap _ _ r)
```

Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:192]: Can you add a lemma that say this is equal to `tprod _ (Pi.mulSingle i (algebraMap _ _ r))`?

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,295 @@
...
+variable [∀ i, Module R (A i)] [∀ i, SMulCommClass R (A i) (A i)] [∀ i, IsScalarTower R (A i) (A i)]
+
+/--
+The multiplication in tensor product of rings is induced by `(xᵢ) * (yᵢ) = (xᵢ * yᵢ)`
+-/
+def lmul : (⨂[R] i, A i) →ₗ[R] (⨂[R] i, A i) →ₗ[R] (⨂[R] i, A i) :=
+lift
+{ toFun := fun x ↦ lift
+    { toFun := fun y ↦ tprod _ (x * y)
+      map_add' := fun z i a a' ↦ by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:51]: I think there's some missing infrastructure here; can you first define `PiTensorProduct.map` to match `TensorProduct.map`? Then I think you might be able to take some ideas from #6195.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 9]
```diff
@@ -440,6 +442,183 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+/--
+Arbitrary tensor product of linear maps to linear maps between arbitrary tensor products:
+
+let `sᵢ` and `tᵢ` be family of `R`-modules and `fᵢ : sᵢ → tᵢ` be a family of `R`-linear map, then
+`⨂ᵢ fᵢ` induces an `R`-linear map `F` between `R`-tensors `⨂ᵢ sᵢ` and `⨂ᵢ tᵢ` by
+`F(⨂ aᵢ) = ⨂ f(aᵢ)`.
+
+Furthermore, the map `⨂ᵢ fᵢ ↦ F` is `R`-linear as well.
+-/
+def map : (⨂[R] i, s i →ₗ[R] t i) →ₗ[R] (⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i where
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Hmm, I couldn't get `map` working
```lean4
def map : (Π i, s i →ₗ[R] t i) →ₗ[R] (⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i :=
  piTensorHomMap ∘ₗ 
  { toFun := fun v ↦ tprod R v
    map_add' := fun x y ↦ by
      sorry
    map_smul' := _ }
```
the sorry want `tprod R (x + y) = tprod R x + tprod R y`. Which I think might not be true? `0 ⊗ 1 ⊗ 0 + 1 ⊗ 0 ⊗ 1 ≠ 1 ⊗ 1 ⊗ 1`?

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: done

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: This PR is getting too big, should we split `map`

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 10]
```diff
@@ -440,6 +442,136 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+    congr
+    ext j
+    by_cases h : j = i
+    · subst h; simp only [update_same]
+    · rw [update_noteq h, update_noteq h] }
+
+/--
+let `sᵢ` and `tᵢ` be family of `R`-modules and a family `fᵢ` of `R`-linear maps `sᵢ → tᵢ`, then
+there is an induced map `F : ⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂ fᵢ aᵢ`.
+-/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:512]:
```suggestion

This is the n-ary version of `TensorProduct.map`
-/
```
Can you do something analogous for all of these?

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 11]
```diff
@@ -440,6 +442,144 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+        update (fun k ↦ (f k) (v k)) i (f _ (r • x)) j by
+      · intro j x
+        by_cases h : j = i
+        · subst h; simp only [update_same]
+        · rw [update_noteq h, update_noteq h], map_smul, MultilinearMap.map_smul]
+      congr
+      ext j
+      by_cases h : j = i
+      · subst h; simp only [update_same]
+      · rw [update_noteq h, update_noteq h] }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:484]:
```suggestion
{ toFun := (tprod R).compLinearMap
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 12]
```diff
@@ -440,6 +442,144 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+    · rw [update_noteq h, update_noteq h] }
+
+/--
+let `sᵢ` and `tᵢ` be family of `R`-modules and a family `fᵢ` of `R`-linear maps `sᵢ → tᵢ`, then
+there is an induced map `F : ⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂ fᵢ aᵢ`.
+
+This is `TensorProduct.map` for an arbitrary family of modules.
+-/
+def map (f : Π i, s i →ₗ[R] t i) : (⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i :=
+  lift <| MultilinearMap.piLinearMapToPiTensorProduct _ _ _ f
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:516]: Could use
```suggestion
  lift <| (tprod R).compLinearMap f
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 11 above)
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: There is `MultilinearMap.compLinearMapMultilinear`, but I am not sure this is what we want here

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: It's `(LinearMap.applyₗ (tprod R)).compMultilinearMap compLinearMapMultilinear`

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Thanks!

**Comment by riccardobrasca** [comment]
Can you please merge master? Thanks!

**Comment by riccardobrasca** [comment]
!bench

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 13]
```diff
@@ -440,6 +442,87 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+/--
+let `sᵢ` and `tᵢ` be family of `R`-modules and a family `fᵢ` of `R`-linear maps `sᵢ → tᵢ`, then
+there is an induced map `F : ⨂ᵢ sᵢ → ⨂ᵢ tᵢ` by `⨂ aᵢ ↦ ⨂ fᵢ aᵢ`.
+
+This is `TensorProduct.map` for an arbitrary family of modules.
+-/
+def map (f : Π i, s i →ₗ[R] t i) : (⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i :=
+  lift <| (tprod R).compLinearMap f
+
+@[simp] lemma map_tprod (f : Π i, s i →ₗ[R] t i) (x : ∀ i, s i) :
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: I changed them to `map_apply_tprod`, but this is inconsistent with `TensorProduct`, for example `TensorProduct.map_tmul`

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 14]
```diff
@@ -440,6 +442,87 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+    map f (tprod R x) = tprod R fun i ↦ f i (x i) :=
+  lift.tprod _
+
+/--
+Arbitrary tensor product of linear maps to linear maps between arbitrary tensor products:
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: I think you would like the new version better )

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 15]
```diff
@@ -440,6 +442,87 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+  toFun φ := lift <| lift (MultilinearMap.piLinearMap <| tprod R) φ
+  map_add' _ _ := by ext; simp
+  map_smul' _ _ := by ext; simp
+
+@[simp] lemma piTensorHomMap_tprod_tprod (f : ∀ i, s i →ₗ[R] t i) (x : ∀ i, s i) :
+    piTensorHomMap (tprod R f) (tprod R x) = tprod R fun i ↦ f i (x i) := by
+  simp [piTensorHomMap]
+
+/--
+let `sᵢ`, `tᵢ` and `tᵢ'` be family of `R`-modules and a family `fᵢ` of `R`-linear maps
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: One is `t`, the other is `t prime`, `map` takes care of the case `s -> t`, `map2` takes care of `s -> t -> t prime`

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Hmm, I see, it's not exactly an `apply` lemma. Being consistent is probably more important, sorry for the useless comment.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 16]
```diff
@@ -441,6 +443,81 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+def map (f : Π i, s i →ₗ[R] t i) : (⨂[R] i, s i) →ₗ[R] ⨂[R] i, t i :=
+  lift <| (tprod R).compLinearMap f
+
+@[simp] lemma map_tprod (f : Π i, s i →ₗ[R] t i) (x : Π i, s i) :
+    map f (tprod R x) = tprod R fun i ↦ f i (x i) :=
+  lift.tprod _
+
+/--
+Let `sᵢ` and `tᵢ` be families of `R`-modules.
+Then there is an `R`=linear map between `⨂ᵢ Hom(sᵢ, tᵢ)` and `Hom(⨂ᵢ sᵢ, ⨂ tᵢ)` defined by
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:470]:
```suggestion
Then there is an `R`-linear map between `⨂ᵢ Hom(sᵢ, tᵢ)` and `Hom(⨂ᵢ sᵢ, ⨂ tᵢ)` defined by
```

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 17]
```diff
@@ -441,6 +443,81 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+`⨂ᵢ fᵢ ↦ ⨂ᵢ aᵢ ↦ ⨂ᵢ fᵢ aᵢ`.
+
+This is `TensorProduct.homTensorHomMap` for an arbitrary family of modules.
+
+Note that `PiTensorProduct.piTensorHomMap (tprod R f)` is equal to `PiTensorProduct.map f`.
+-/
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:476]: Can you add this result? It seems `simp` doesn't prove it (but `ext; simp` does it).

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 18]
```diff
@@ -441,6 +443,81 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+  toFun φ := lift <| lift (MultilinearMap.piLinearMap <| tprod R) φ
+  map_add' _ _ := by ext; simp
+  map_smul' _ _ := by ext; simp
+
+@[simp] lemma piTensorHomMap_tprod_tprod (f : Π i, s i →ₗ[R] t i) (x : Π i, s i) :
+    piTensorHomMap (tprod R f) (tprod R x) = tprod R fun i ↦ f i (x i) := by
+  simp [piTensorHomMap]
+
+/--
+Let `sᵢ`, `tᵢ` and `t'ᵢ` be families of `R`-modules, i.e. `f : Πᵢ sᵢ → tᵢ → t'ᵢ` induces an
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:487]:
```suggestion
Let `sᵢ`, `tᵢ` and `t'ᵢ` be families of `R`-modules, then `f : Πᵢ sᵢ → tᵢ → t'ᵢ` induces an
```

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 19]
```diff
@@ -0,0 +1,270 @@
...
+import Mathlib.LinearAlgebra.PiTensorProduct
+import Mathlib.Algebra.Algebra.Bilinear
+
+/-!
+# Tensor product of `R`-algebras and rings
+
+If `(Aᵢ)` is a family of `R`-algebras then the `R`-tensor `⨂ᵢ Aᵢ` is an `R`-algebra as well with
+its structure map defined by `r ↦ r • 1`.
+
+In particular if we take `R` to be `ℤ`, then this collapse into tensor product of rings.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PiTensorProduct.lean:16]:
```suggestion
If `(Aᵢ)` is a family of `R`-algebras then the `R`-tensor product `⨂ᵢ Aᵢ` is an `R`-algebra as well with structure map defined by `r ↦ r • 1`.

In particular if we take `R` to be `ℤ`, then this collapse into tensor product of rings.
```

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 20]
```diff
@@ -0,0 +1,270 @@
...
+
+noncomputable section AddCommMonoidWithOne
+
+variable [CommSemiring R] [∀ i, AddCommMonoidWithOne (A i)] [∀ i, Module R (A i)]
+
+instance one : One (⨂[R] i, A i) where
+  one := tprod R 1
+
+instance addCommMonoidWithOne : AddCommMonoidWithOne (⨂[R] i, A i) where
+  __ := inferInstanceAs (AddCommMonoid (⨂[R] i, A i))
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PiTensorProduct.lean:33]: @eric-wieser is using `__` OK here? I mean, should we worry about how these instances are defined or now everything should just work?

**Review by riccardobrasca — COMMENTED** [review]
Do you see a reason why the file [Mathlib/LinearAlgebra/PiTensorProduct.lean](https://github.com/leanprover-community/mathlib4/pull/9395/files#diff-b7d0033f4a82efcf1df9b92c82d1a96dff948c4bcfbb6b04e90eb74f1b071c3c) is not in the folder `TensorProduct`?

**Comment by riccardobrasca** [comment]
There are still a couple of comments about the doc, but LGTM, thanks!

bors d+

File: Mathlib/RingTheory/PiTensorProduct.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/PiTensorProduct.lean:33]: Everything should just work I think. Certainly `__` is no worse than `with`

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 21]
```diff
@@ -441,6 +443,81 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+element of `Hom(⨂ᵢ sᵢ, Hom(⨂ tᵢ, ⨂ᵢ t'ᵢ))` defined by `⨂ᵢ aᵢ ↦ ⨂ᵢ bᵢ ↦ ⨂ᵢ fᵢ aᵢ bᵢ`.
+
+This is `TensorProduct.map` for two arbitrary families of modules.
+-/
+def map₂ (f : Π i, s i →ₗ[R] t i →ₗ[R] t' i) :
+    (⨂[R] i, s i) →ₗ[R] (⨂[R] i, t i) →ₗ[R] ⨂[R] i, t' i:=
+  lift <| LinearMap.compMultilinearMap piTensorHomMap <| (tprod R).compLinearMap f
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:494]: It's a bit weird to me to add these for the n-ary tensor product, but not the binary one. Ideally we'd add it there (in a separate PR) and reference it in the docstring, but perhaps until then:
```suggestion
This is `PiTensorProduct.map` for two arbitrary families of modules.
Note that for now, there is no `TensorProduct` analogue of this construction.
-/
def map₂ (f : Π i, s i →ₗ[R] t i →ₗ[R] t' i) :
    (⨂[R] i, s i) →ₗ[R] (⨂[R] i, t i) →ₗ[R] ⨂[R] i, t' i:=
  lift <| LinearMap.compMultilinearMap piTensorHomMap <| (tprod R).compLinearMap f
```
and similarly everywhere else that you've built API that doesn't exist for `TensorProduct`

**Comment by eric-wieser** [comment]
I pushed quite a few changes to make this more consistent with `RingTheory.TensorProduct`; notably making some results work for towers of algebras. It would be nice to add something like:
```

#check hasSMul'

instance (priority := 100) isScalarTower_right [CommMonoid R'] [DistribMulAction R' R] [SMulCommClass R' R R]
    : IsScalarTower R' (⨂[R] i, A i) (⨂[R] i, A i) where
  smul_assoc r x y := by
    change r • x * y = r • (x * y)
    induction y using PiTensorProduct.induction_on with
    | @C1 yr yi => induction x using PiTensorProduct.induction_on with
      | @C1 xr xi =>
        simp only [mul_def, smul_comm (_ : R'), tprod_eq_tprodCoeff_one, smul_tprodCoeff' (_ : R')]
        rw [tprodCoeff_eq_smul_tprod, ←tprod_eq_tprodCoeff_one]
        simp_rw [map_smul, LinearMap.smul_apply, mul_tprod_tprod, smul_comm r]
        congr
        sorry
      | Cp hx hy => simp [smul_add, add_mul _, *]
    | Cp hx hy => simp [smul_add, mul_add _, *]
```
though I think there might be some more basic instances missing elsewhere.

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 22]
```diff
@@ -0,0 +1,249 @@
...
+  toFun := lift f
+  map_one' := show lift f (tprod R 1) = 1 by simp [one]
+  map_mul' x y := show lift f (x * y) = lift f x * lift f y by
+    induction x using PiTensorProduct.induction_on with
+    | C1 =>
+      induction y using PiTensorProduct.induction_on with
+      | C1 =>
+        simp only [Algebra.mul_smul_comm, Algebra.smul_mul_assoc, tprod_mul_tprod, map_smul,
+          lift.tprod, mul]
+      | Cp hy1 hy2 =>
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:199]: These `C1` and `Cp` names are pretty lousy, so I created #10904

Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean]: fixed

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 17 above)
Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:480]: done

File: Mathlib/LinearAlgebra/PiTensorProduct.lean (hunk 21 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Do you plan to do this in another PR?

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Yes, I will do this in another PR

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: #10986 here it is

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 23]
```diff
@@ -0,0 +1,248 @@
...
+  have : Pi.mulSingle i (algebraMap R' (A i) r) = update (fun i ↦ 1) i (r • 1) := by
+    rw [Algebra.algebraMap_eq_smul_one]; rfl
+  rw [this, ← smul_one_smul R r (1 : A i), MultilinearMap.map_smul, update_eq_self, smul_one_smul]
+  congr
+
+/--
+The map `Aᵢ ⟶ ⨂ᵢ Aᵢ` given by `a ↦ 1 ⊗ ... ⊗ a ⊗ 1 ⊗ ...`
+-/
+@[simps]
+def fromComponentAlgHom [DecidableEq ι] (i : ι) : A i →ₐ[R] ⨂[R] i, A i where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:171]:
```suggestion
def tprodSingleAlgHom [DecidableEq ι] (i : ι) : A i →ₐ[R] ⨂[R] i, A i where
```
or perhaps just
```suggestion
def singleAlgHom [DecidableEq ι] (i : ι) : A i →ₐ[R] ⨂[R] i, A i where
```
since the `inl` and `inr` versions for `TensorProduct` are quite succinctly named

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 24]
```diff
@@ -0,0 +1,248 @@
...
+      | add _ _ hy1 hy2 =>
+        simp only [Algebra.smul_mul_assoc, map_smul, lift.tprod, map_add] at hy1 hy2 ⊢
+        rw [mul_add, map_add, smul_add, hy1, hy2, mul_add, smul_add]
+    | add _ _ hx1 hx2 =>
+      simp only [map_add] at hx1 hx2 ⊢
+      rw [add_mul, map_add, hx1, hx2, add_mul]
+  map_zero' := by simp only [map_zero]
+  map_add' x y := by simp only [map_add]
+  commutes' r := show lift f (r • tprod R 1) = _ by
+    rw [map_smul, lift.tprod, one, Algebra.algebraMap_eq_smul_one]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:207]: I would guess that `AlgHom.ofLinearMap` makes this shorter.

File: Mathlib/RingTheory/PiTensorProduct.lean [hunk 25]
```diff
@@ -0,0 +1,248 @@
...
+/--
+Lifting a multilinear map to an algebra homomorphism from tensor product
+-/
+@[simps]
+def liftAlgHom {S : Type*} [Semiring S] [Algebra R S]
+    (f : MultilinearMap R A S)
+    (one : f 1 = 1) (mul : ∀ x y, f (x * y) = f x * f y) : (⨂[R] i, A i) →ₐ[R] S where
+  toFun := lift f
+  map_one' := show lift f (tprod R 1) = 1 by simp [one]
+  map_mul' x y := show lift f (x * y) = lift f x * lift f y by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PiTensorProduct.lean:191]: `rw [LinearMap.map_mul_iff]; ext` might shorten this proof

Comment (jjaassoonn) [reply Mathlib/RingTheory/PiTensorProduct.lean]: Sorry for the late reply. Indeed works like a charm. Thanks!

**Comment by jjaassoonn** [comment]
If the CI passes, I will merge it @eric-wieser  @riccardobrasca

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 26]
```diff
@@ -445,6 +447,85 @@ theorem lift_tprod : lift (tprod R : MultilinearMap R s _) = LinearMap.id :=
...
+    piTensorHomMap (tprod R f) = map f := by
+  ext; simp
+
+/--
+Let `sᵢ`, `tᵢ` and `t'ᵢ` be families of `R`-modules, then `f : Πᵢ sᵢ → tᵢ → t'ᵢ` induces an
+element of `Hom(⨂ᵢ sᵢ, Hom(⨂ tᵢ, ⨂ᵢ t'ᵢ))` defined by `⨂ᵢ aᵢ ↦ ⨂ᵢ bᵢ ↦ ⨂ᵢ fᵢ aᵢ bᵢ`.
+
+This is `PiTensorProduct.map` for two arbitrary families of modules.
+This is `TensorProduct.map₂` for families of modules.
+Note that for now, there is no `TensorProduct` analogue of this construction.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:498]:
```suggestion
This is `TensorProduct.map₂` for families of modules.
```
The first sentence contradicts the second!

Comment (jjaassoonn) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:498]: Ah forgot to delete the second sentence. Thanks
